US04122233
2,4-DIHYDROXYBENZOPHENONE/γ-GLYCIDOXYPROPYLTRIMETHOXYSILANE 1:1 ADDUCT
The above compound (Adduct I, was prepared by heating a mixture of 10.7 g (0.05 mole) of 2,4-dihydroxybenzophenone and 12.04 g (0.051 mole) of γ-glycidoxypropyltrimethoxysilane under nitrogen in the presence of 0.1 g of tetramethylammonium chloride. The mixture was stirred and gradually heated to 75°-80° C., then maintained at this temperature for 8 hours. During this period it changed into a homogeneous, viscous oil. An equivalent product was obtained when the reactants were heated at 80° C. for 4 hrs.

reactant | 2,4-dihydroxybenzophenone | 0.05 mole, 10.7 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | γ-glycidoxypropyltrimethoxysilane | 0.051 mole, 12.04 g | C(C1CO1)OCCC[Si](OC)(OC)OC | C9H20O5Si
catalyst | tetramethylammonium chloride | 0.1 g | [Cl-].C[N+](C)(C)C
product | 2,4-DIHYDROXYBENZOPHENONE γ-GLYCIDOXYPROPYLTRIMETHOXYSILANE | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O.C(C1CO1)OCCC[Si](OC)(OC)OC | InChI=1S/C13H10O3.C9H20O5Si/c14-10-6-7-11(12(15)8-10)13(16)9-4-2-1-3-5-9;1-10-15(11-2,12-3)6-4-5-13-7-9-8-14-9/h1-8,14-15H;9H,4-8H2,1-3H3
